US05346896
Sodium hydride 80% dispersion in oil (1.7 g) was added to dry DMF (100 ml) under argon. Phenol (3.76 g; 0.04 m) was added over 20 mins and the resulting grey mixture was stirred a further 20 mins and cooled to 0° C. A solution of 1-(2-methoxyphenyl)-4-(1-oxo-2-chloro-2-phenylethyl)piperazine (13.8 g; 0.04 m) in dry DMF (60 ml) was added over 20 mins. The mixture was heated to 60° C. over a period of about 3 hrs and then maintained at 60° C. for 21/2 hrs and then stirred at ambient temperature overnight. The mix was cooled to 0° C., treated with 10 ml crushed ice and the DMF was vacuumed off. The residue, in methylene chloride, was washed well with water and dried over magnesium sulphate. The oil resulting on evaporation, solidified on standing for a few days to give 1-(2-methoxyphenyl)-4 -(1-oxo-2-phenoxy-2-phenylethyl)piperazine.

reactant | Sodium hydride | [H-].[Na+]
reactant | Phenol | 3.76 g | C1(=CC=CC=C1)O | C6H6O
reactant | 1-(2-methoxyphenyl)-4-(1-oxo-2-chloro-2-phenylethyl)piperazine | 13.8 g | COC1=C(C=CC=C1)N1CCN(CC1)C(C(C1=CC=CC=C1)Cl)=O | C19H21ClN2O2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-(2-methoxyphenyl)-4 -(1-oxo-2-phenoxy-2-phenylethyl)piperazine | COC1=C(C=CC=C1)N1CCN(CC1)C(C(C1=CC=CC=C1)OC1=CC=CC=C1)=O | C25H26N2O3
